US04391984
On the other hand, 1,8-dibromo-1-octyne and a copper halide as the catalyst are dissolved in tetrahydrofuran in a reaction vessel to form a reaction mixture, into which the above prepared Grignard reagent in tetrahydrofuran is added dropwise to effect the reaction between the reactants followed by hydrolysis and distillation to give 1-bromohexadeca-11-en-7-yne. The reaction is expressed by the following reaction equation:

reactant | 1,8-dibromo-1-octyne | BrC#CCCCCCCBr | C8H12Br2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-bromohexadeca-11-en-7-yne | BrCCCCCCC#CCCC=CCCCC | C16H27Br
